US08084604B2
N-(2-Fluorophenyl)-N′-[2-methoxy-5-(trifluoromethyl)phenyl]urea (0.225 kg) is dissolved in acetic acid (6.75 l) and treated with palladium acetate (30.3 g). 65% strength oleum (247.5 g) is then metered in and methyl acrylate (90 g) is subsequently added. The solution is stirred at room temperature overnight. Subsequently, acetic acid (3740 g) is distilled off at 30° C. and ca. 30 mbar. The suspension is treated with water (2.25 l) and stirred for ca. 1 hour. The product is filtered off with suction, washed twice with water (0.5 l) and dried at 50° C. overnight in the vacuum drying oven using entraining nitrogen. A total of 210.3 g of methyl (2E)-3-{3-fluoro-2-[({[2-methoxy-5-(trifluoromethyl)phenyl]amino}carbonyl)amino]phenyl}acrylate are obtained as a solid, corresponding to 72.2% of theory.

reactant | N-(2-Fluorophenyl)-N′-[2-methoxy-5-(trifluoromethyl)phenyl]urea | 0.225 kg | FC1=C(C=CC=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)OC | C15H12F4N2O2
reactant | oleum | 247.5 g | OS(=O)(=O)O.O=S(=O)=O
reactant | methyl acrylate | 90 g | C(C=C)(=O)OC | C4H6O2
solvent | acetic acid | 6.75 l | C(C)(=O)O | C2H4O2
catalyst | palladium acetate | 30.3 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl (2E)-3-{3-fluoro-2-[({[2-methoxy-5-(trifluoromethyl)phenyl]amino}carbonyl)amino]phenyl}acrylate | 210.3 g | FC=1C(=C(C=CC1)/C=C/C(=O)OC)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)OC | C19H16F4N2O4
